US05118879
To 7 ml of ethanol added was 0.6 mmol (0.126 g) of 1-phenyl-1-chloro-2-trifluoromethylpropane, and then 2 mmol (0.112 g) of potassium hydroxide was added thereto and allowed to react at 50° C. for 18 hours, whereby 1-phenyl-2-trifluoromethylpropene was obtained at a yield of 71%. The results of analyses of the product are shown below.

reactant | 1-phenyl-1-chloro-2-trifluoromethylpropane | 0.6 mmol, 0.126 g | C1(=CC=CC=C1)C(C(C)C(F)(F)F)Cl | C10H10ClF3
reactant | potassium hydroxide | 2 mmol, 0.112 g | [OH-].[K+]
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 1-phenyl-2-trifluoromethylpropene | yield of 71% | C1(=CC=CC=C1)C=C(C)C(F)(F)F | C10H9F3
